US06699859B1
d) 6-Chloro-5-(pyrrolidin-1-yl)-pyridazin-3-ylhydrazine
A solution of 3,6-dichloro-4-(pyrrolidin-1-yl)pyridazine (53 g, 0.24 mol) and hydrazine monohydrate (105 ml, 2.2 mol) in 1,4-dioxane (820 ml) was heated at reflux overnight. The solution was allowed to cool, and dichloromethane was added, precipitating a solid. This was filtered off, affording the title compound as a pale yellow solid (14 g, 27%). The filtrate was concentrated in vacuo, and the residue purified by flash chromatography on silica gel, eluting with 2-5% methanol in dichloromethane containing 0.1% concentrated aqueous ammonia, yielding a further 5 g (4%) of the title compound. 1H NMR (250 MHz, CDCl3) δ1.98 (4H, m), 3.26 (2H, br s), 3.57 (4H, m), 6.11 (1H, s), 6.41 (1H, br s). MS (ES+) m/e 214 [MH]+, 216 [MH]+.

reactant | 3,6-dichloro-4-(pyrrolidin-1-yl)pyridazine | 0.24 mol, 53 g | ClC=1N=NC(=CC1N1CCCC1)Cl | C8H9Cl2N3
reactant | hydrazine monohydrate | 2.2 mol, 105 ml | O.NN
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 820 ml | O1CCOCC1 | C4H8O2
product | 6-Chloro-5-(pyrrolidin-1-yl)-pyridazin-3-ylhydrazine | 14 g, 27% | ClC1=C(C=C(N=N1)NN)N1CCCC1 | C8H12ClN5
